US08809361B2
5-(4-Ethylaminocarbonyl-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
The title compound is prepared from 5-chloro-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] and 4-ethylaminocarbonyl-phenylboronic acid following a procedure analogous to that described for Example 1; the reaction is conducted in a microwave oven at 140° C. LC (method 3): tR=1.26 min; Mass spectrum (ESI+): m/z=478 [M+H]+.

reactant | 5-chloro-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | ClC=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2 | C19H25ClN2O3
reactant | 4-ethylaminocarbonyl-phenylboronic acid | C(C)NC(=O)C1=CC=C(C=C1)B(O)O | C9H12BNO3
product | 5-(4-Ethylaminocarbonyl-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | C(C)NC(=O)C1=CC=C(C=C1)C=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2 | C28H35N3O4
